US07807686B2
2-Acetylamino-5-(3-piperidin-1-ylpropoxy)benzoic acid methyl ester (1.34 g, 4.0 mmol) was treated with 6N HCl (aq.) (20 mL) and heated at reflux temperature for 8 h. The mixture was then cooled and concentrated in vacuo to afford 2-amino-5-(3-piperidin-1-ylpropoxy)benzoic acid dihydrochloride (1.4 g, 4.0 mmol, 100%).

reactant | 2-Acetylamino-5-(3-piperidin-1-ylpropoxy)benzoic acid methyl ester | 4.0 mmol, 1.34 g | COC(C1=C(C=CC(=C1)OCCCN1CCCCC1)NC(C)=O)=O | C18H26N2O4
reactant | HCl | 6N, 20 mL | Cl | ClH
product | 2-amino-5-(3-piperidin-1-ylpropoxy)benzoic acid dihydrochloride | 4.0 mmol, 1.4 g, 100% | Cl.Cl.NC1=C(C(=O)O)C=C(C=C1)OCCCN1CCCCC1 | InChI=1S/C15H22N2O3.2ClH/c16-14-6-5-12(11-13(14)15(18)19)20-10-4-9-17-7-2-1-3-8-17;;/h5-6,11H,1-4,7-10,16H2,(H,18,19);2*1H
